US04550105
In 6 ml of water is dissolved 0.486 g of sodium 3-[2-(2-chloroacetamido-4-thiazolyl)acetamido]-2-oxoazetidine-1-sulfonate, and to the solution is added 0.154 g of sodium N-methyldithiocarbamate under ice-cooling and stirring. The mixture is treated as described in Example 3 to obtain 0.144 g of sodium 3-[2-(2-amino-4-thiazolyl)acetamido]2-oxoazetidine-1-sulfonate.

reactant | sodium 3-[2-(2-chloroacetamido-4-thiazolyl)acetamido]-2-oxoazetidine-1-sulfonate | 0.486 g | ClCC(=O)NC=1SC=C(N1)CC(=O)NC1C(N(C1)S(=O)(=O)[O-])=O.[Na+]
reactant | sodium N-methyldithiocarbamate | 0.154 g | CNC([S-])=S.[Na+]
solvent | water | 6 ml | O | H2O
product | sodium 3-[2-(2-amino-4-thiazolyl)acetamido]2-oxoazetidine-1-sulfonate | 0.144 g | NC=1SC=C(N1)CC(=O)NC1C(N(C1)S(=O)(=O)[O-])=O.[Na+] | InChI=1S/C8H10N4O5S2.Na/c9-8-10-4(3-18-8)1-6(13)11-5-2-12(7(5)14)19(15,16)17;/h3,5H,1-2H2,(H2,9,10)(H,11,13)(H,15,16,17);/q;+1/p-1
